US07109186B2
Compound 71: [(4-Fluoro-benzyl)-(4-hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carbonyl)-aminooxy]-acetic acid
A solution of [(4-fluorobenzyl)-(4-hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carbonyl)-aminooxy]-acetic acid tert-butyl ester (0.041 g, 0.104 mmol) in dichloromethane (4 ml) was treated with trifluoroacetic acid (1 ml) and the resulting mixture was stirred at 22° C. for 2 h. The solvent was evaporated in vacuo and the residue was recrystallized from a mixture of ethyl acetate and hexane to give 0.027 g (80% yield) of the tittle material as white crystals; mp 147–150° C. 1HNMR 400 MHz (DMSO-d6) δ (ppm): 2.95 (3H, s, NCH3), 4.14 (2H, s, CH2), 4.62 (2H, s, CH2), 4.92 (2H, s, CH2), 7.17 (2H, m, aromatics), 7.36 (2H, m, aromatics), 11.4 (1H, broad s, OH), 13.1 (1H, broad s, OH). HRMS (ES+) calculated for C15H16FN2O6, [M+H]+: 339.099240. found: 339.100624.

reactant | [(4-fluorobenzyl)-(4-hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carbonyl)-aminooxy]-acetic acid tert-butyl ester | 0.104 mmol, 0.041 g | C(C)(C)(C)OC(CON(C(=O)C=1CN(C(C1O)=O)C)CC1=CC=C(C=C1)F)=O | C19H23FN2O6
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | [(4-Fluoro-benzyl)-(4-hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carbonyl)-aminooxy]-acetic acid | 0.027 g, 80% yield | FC1=CC=C(CN(OCC(=O)O)C(=O)C=2CN(C(C2O)=O)C)C=C1 | C15H15FN2O6
